US04278577
Preparation of N,N'-Bis(4-t-butyl-3-hydroxy-2,6-dimethylbenzyl)-N,N'-Dioctadecyl-4,4'-Biphenyldisulfonamide
To a stirred solution of 6-t-butyl-3-(octadecylaminomethyl)-2,4-dimethylphenol (9.18 grams; 0.02 mole) in acetone (80 mls) at 35° C. there is added 4,4'-biphenyldisulfonyl chloride (3.5 grams; 0.01 mole) over a period of 20 minutes while maintaining the temperature at 35° C. The mixture is stirred for an additional hour at 35° C. and a solution of 50% caustic soda (1.6 grams; 0.02 mole) in water (8 mls) is added to the reaction mixture which is then allowed to stir at room temperature for 20 hours. The reaction mixture is then treated with water (50 mls) and the resulting precipitate is recovered by filtration, washed with methanol, and dried to obtain the crude product (9.2 grams; 77% of theoretical). Recrystallization of the crude product from n-propanol affords the pure product (4.2 grams; m.p. 208°-210° C.).

reactant | 6-t-butyl-3-(octadecylaminomethyl)-2,4-dimethylphenol | 0.02 mole, 9.18 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CNCCCCCCCCCCCCCCCCCC)C | C31H57NO
reactant | 4,4'-biphenyldisulfonyl chloride | 0.01 mole, 3.5 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O4S2
reactant | caustic soda | 0.02 mole, 1.6 grams | [OH-].[Na+]
solvent | acetone | 80 mls | CC(=O)C | C3H6O
solvent | water | 8 mls | O | H2O
solvent | water | 50 mls | O | H2O
product | N,N'-Bis(4-t-butyl-3-hydroxy-2,6-dimethylbenzyl)-N,N'-Dioctadecyl-4,4'-Biphenyldisulfonamide | 9.2 grams, 77% | C(C)(C)(C)C1=C(C(=C(CN(S(=O)(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N(CCCCCCCCCCCCCCCCCC)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)CCCCCCCCCCCCCCCCCC)C(=C1)C)C)O | C74H120N2O6S2
